US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-2-methoxybenzamide Hydrochloride
The title compound was prepared in an analogous fashion to Example 2 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 2-methoxybenzoyl chloride.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2-methoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-2-methoxybenzamide Hydrochloride | Cl.CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=CC=C1)OC)=O | InChI=1S/C18H20N2O2.ClH/c1-20-11-10-14-13(12-20)6-5-8-16(14)19-18(21)15-7-3-4-9-17(15)22-2;/h3-9H,10-12H2,1-2H3,(H,19,21);1H
